US07696240B2
5-Chloro-3-methoxy-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid
Using general procedure B, 5-chloro-3-methoxy-1H-indole-2-carboxylic acid ethyl ester (Lit. 9) was coupled with 1-bromomethyl-naphthalene and the product obtained was hydrolyzed to give the title compound as a white solid. MS: 364.1 ([M−H]−).

reactant | 5-chloro-3-methoxy-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1OC)Cl | C12H12ClNO3
reactant | 1-bromomethyl-naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 5-Chloro-3-methoxy-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid | ClC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC2=CC=CC=C12)C(=O)O)OC | C21H16ClNO3
